US07427631B2
N-{3-{4-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl}methyl]-2,5-dioxoimidazolidin-4-yl}propyl)methanesulfonamide
5-(3-Aminopropyl)-5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]imidazolidine-2,4-dione trifluoroacetic acid (100 mg, 0.18 mmol) was slurried in 2 mL DCM. DIPEA (62 μL, 0.36 mmol) was added and the slurry was stirred for some minutes. Sulfonylchloride (16 μL, 0.18 mmol) was added and the reaction was stirred at rt over night. The crude product was purified by preparative HPLC.

reactant | 5-(3-Aminopropyl)-5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]imidazolidine-2,4-dione trifluoroacetic acid | 0.18 mmol, 100 mg | FC(C(=O)O)(F)F.NCCCC1(C(NC(N1)=O)=O)CS(=O)(=O)N1CCC(CC1)OC1=NC=C(C=C1)Cl
reactant | DIPEA | 0.36 mmol, 62 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Sulfonylchloride | 0.18 mmol, 16 μL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{3-{4-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl}methyl]-2,5-dioxoimidazolidin-4-yl}propyl)methanesulfonamide | ClC=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)CC1(NC(NC1=O)=O)CCCNS(=O)(=O)C | C18H26ClN5O7S2
